US06150373
A solution of 2.6 g (4.9 mmol) of 5-(2-bromoanilino)methyl-4-[3-(2-(tetrahydropyranyloxy)ethyl)phenyl]amino-2-methylthiopyrimidine in 40 ml of tetrahydrofuran was treated with 2 ml (14.4 mmol) of triethylamine and the resulting solution added dropwise to an ice-cooled solution of phosgene (3 ml of a 20% solution in toluene, 5.8 mmol) in 40 ml of tetrahydrofuran. After 1 hour 50 ml of a saturated solution of ammonium chloride was added. The mixture was separated and the organic phase dried over magnesium sulfate and filtered. To the solution was added 20 ml of a saturated solution of hydrogen chloride in ethyl acetate. After 10 minutes the solution was evaporated to afford 1.8 g (78%) of 3-(2-bromophenyl)-3,4-dihydro-1-[3-(2-hydroxyethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid. [Mass spectrum (ESI) MH+ =471].

reactant | 5-(2-bromoanilino)methyl-4-[3-(2-(tetrahydropyranyloxy)ethyl)phenyl]amino-2-methylthiopyrimidine | 4.9 mmol, 2.6 g | BrC1=C(NCC=2C(=NC(=NC2)SC)NC2=CC(=CC=C2)CCOC2OCCCC2)C=CC=C1 | C25H29BrN4O2S
reactant | triethylamine | 14.4 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(2-bromophenyl)-3,4-dihydro-1-[3-(2-hydroxyethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one | 1.8 g, 78% | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC(=CC=C1)CCO)=O | C21H19BrN4O2S
